US08669234B2
A solution of hydrogen chloride in 1,4-dioxane (4 N, 75 mL) was added to a solution of (S)-2-{5-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-1H-imidazol-2-yl}-pyrrolidine-1-carboxylic acid tert-butyl ester (7.0 g, 15.9 mmol) in dichloromethane (50 mL). Gas evolution was observed. After 30 minutes, a solid formed. After 1.5 hours, the resulting solid was isolated by filtration with diethyl ether washing. Any residual solvent was removed under reduced pressure to provide (S)-2-pyrrolidin-2-yl-5-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-1H-imidazole hydrochloride (5.6 g, 95%) as an off-white solid.

reactant | hydrogen chloride | Cl | ClH
reactant | (S)-2-{5-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-1H-imidazol-2-yl}-pyrrolidine-1-carboxylic acid tert-butyl ester | 15.9 mmol, 7.0 g | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)C=1NC(=CN1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C24H34BN3O4
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | 1,4-dioxane | 4 N, 75 mL | O1CCOCC1 | C4H8O2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | (S)-2-pyrrolidin-2-yl-5-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-1H-imidazole hydrochloride | 5.6 g, 95% | Cl.N1[C@@H](CCC1)C=1NC(=CN1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | InChI=1S/C19H26BN3O2.ClH/c1-18(2)19(3,4)25-20(24-18)14-9-7-13(8-10-14)16-12-22-17(23-16)15-6-5-11-21-15;/h7-10,12,15,21H,5-6,11H2,1-4H3,(H,22,23);1H/t15-;/m0./s1
